US07901793B2
(a) Synthesis of 9-p-tolyl-anthracene
5 g (1 eq, 15.6 mmol) of 9-bromo anthracene, 3.61 g of p-tolylboronic acid (1.7 eq, 26.5 mmol), 2.15 g (1.3 eq, 20.3 mmol) of Na2CO3, and 0.54 g (0.03 eq, 0.47 mmol) of tetrakis(triphenylphosphine)palladium were put into a 500-ml round-bottomed flask in Ar gas condition. 5 ml of THF and 2.2 ml of water, based on 1 mmol of p-tolylboronic acid, were added into the flask and refluxed at 85° C. for 16 hours. After the color of the solution changed to dark brown, water was added to the solution, and the organic phase was extracted using ethyl acetate. The extracted organic phase was dried using anhydrous magnesium sulfate and filtered to remove the solvent. The dried organic phase was dissolved in a small amount of toluene and separated using column chromatography (silica and hexane). A resulting solid was recrystallized using toluene and methanol to obtain 4.5 g (86%) of a white solid.

reactant | 9-bromo anthracene | 15.6 mmol, 5 g, 1 eq | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | p-tolylboronic acid | 26.5 mmol, 3.61 g, 1.7 eq | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | Na2CO3 | 20.3 mmol, 2.15 g, 1.3 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.47 mmol, 0.54 g, 0.03 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | p-tolylboronic acid | 1 mmol | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
solvent | water | O | H2O
solvent | water | 2.2 ml | O | H2O
product | 9-p-tolyl-anthracene | 4.5 g, 86% | C1(=CC=C(C=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12)C | C21H16
